US06387908B1
Ethyl (2S,3S)-3-[[1-(S)-[α-(R)-hydroxybenzyl]-3-methylbutyl]carbamoyl]oxirane-2-carboxylate (Compound No. 1)
To a solution of (2S,3S)-3-ethoxycarbonyloxirane-2-carboxylic acid (696 mg, 4.78 mmol.) in ethyl acetate (15 mL) was added N-hydroxysuccinimide (550 mg, 4.78 mmol.) and then added N,N′-dicyclohexylcarbodiimide (986 mg, 4.78 mmol.) under chilling with ice. The resulting mixture was stirred at 5° C. for one hour, and to the mixture was added (1R,2S)-2-amino-4-methyl-1-phenyl-1-pentanol (1.01 g, 5.23 mmol.). The mixture was stirred overnight at room temperature for one hour. The resulting insoluble material was removed by filtration, and the filtrate was washed successively with 2N hydrochloric acid, water, an aqueous saturated sodium hydrogen carbonate solution, and an aqueous saturated sodium chloride solution, and then dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, and the residue was purified by middle pressure silica gel column chromatography (n-hexane/ethyl acetate=1/1), to give the desired compound as a white crystalline product (1.29 g, yield: 89%).

reactant | (2S,3S)-3-ethoxycarbonyloxirane-2-carboxylic acid | 4.78 mmol, 696 mg | C(C)OC(=O)[C@@H]1[C@H](O1)C(=O)O | C6H8O5
reactant | N-hydroxysuccinimide | 4.78 mmol, 550 mg | ON1C(CCC1=O)=O | C4H5NO3
reactant | N,N′-dicyclohexylcarbodiimide | 4.78 mmol, 986 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | (1R,2S)-2-amino-4-methyl-1-phenyl-1-pentanol | 5.23 mmol, 1.01 g | N[C@H]([C@H](O)C1=CC=CC=C1)CC(C)C | C12H19NO
solvent | ethyl acetate | 15 mL | C(C)(=O)OCC | C4H8O2
product | Ethyl (2S,3S)-3-[[1-(S)-[α-(R)-hydroxybenzyl]-3-methylbutyl]carbamoyl]oxirane-2-carboxylate | O[C@H](C1=CC=CC=C1)[C@H](CC(C)C)NC(=O)[C@@H]1[C@H](O1)C(=O)OCC | C18H25NO5
